US06297266B1
142 mg of tert-butyl {3-[(2-guanidino-4-methyl-thiazole-5-carbonyl)-amino]-phenoxy}-acetate is stirred in 1.1 ml of methylene chloride and 1.1 ml of trifluoroacetic acid (TFA) for 2 hrs. at RT. The reaction mixture is evaporated in a vacuum, the residue is taken up in water and the solution is evaporated to dryness. The solid is suspended in water, adjusted to pH 8 with 1N ammonia while stirring, filtered off under suction, washed with water and dried. There are obtained 101 mg of [3-[(2-guanidino-4-methyl-thiazole-5-carbonyl)-amino]-phenoxy]-acetic acid, m.p. 284° C., MS: 350 (M+H)+.

reactant | tert-butyl {3-[(2-guanidino-4-methyl-thiazole-5-carbonyl)-amino]-phenoxy}-acetate | 142 mg | N(C(=N)N)C=1SC(=C(N1)C)C(=O)NC=1C=C(OCC(=O)OC(C)(C)C)C=CC1 | C18H23N5O4S
reactant | trifluoroacetic acid | 1.1 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 1.1 ml | C(Cl)Cl | CH2Cl2
product | [3-[(2-guanidino-4-methyl-thiazole-5-carbonyl)-amino]-phenoxy]-acetic acid | 101 mg | N(C(=N)N)C=1SC(=C(N1)C)C(=O)NC=1C=C(OCC(=O)O)C=CC1 | C14H15N5O4S
